US08084620B2
A mixture of 3-bromo-2-methylaniline (200 mg, 1.075 mmol), 2-fluoro-4-methylpyridine (155 mg, 1.397 mmol) and potassium tert-butoxide (193 mg, 1.72 mmol) in DMSO (4 mL) was heated in a sealed tube via microwave irradiation at 190° C. for 40 min. The mixture was partitioned between EtOAc and water, and the organic phase was washed with brine, dried and concentrated. The residue was purified by column chromatography (eluting with a gradient from hexane to 85:15 hexane-EtOAc) to provide N-(3-bromo-2-methylphenyl)-4-methylpyridin-2-amine as a yellow solid (100 mg, 34%). 1H NMR (400 MHz, chloroform-d) δ 8.05 (1H, d, J=5.3 Hz), 7.38 (2H, d, J=8.1 Hz), 7.06 (1H, t, J=8.0 Hz), 6.58 (1H, d, J=5.3 Hz), 6.40 (1H, s), 6.23 (1H, br. s.), 2.37 (3H, s), 2.23 (3H, s). Mass spectrum m/z 277, 279 (M+H)+.

reactant | 3-bromo-2-methylaniline | 1.075 mmol, 200 mg | BrC=1C(=C(N)C=CC1)C | C7H8BrN
reactant | 2-fluoro-4-methylpyridine | 1.397 mmol, 155 mg | FC1=NC=CC(=C1)C | C6H6FN
reactant | potassium tert-butoxide | 1.72 mmol, 193 mg | CC(C)([O-])C.[K+]
solvent | DMSO | 4 mL | CS(=O)C | C2H6OS
product | N-(3-bromo-2-methylphenyl)-4-methylpyridin-2-amine | 100 mg, 34% | BrC=1C(=C(C=CC1)NC1=NC=CC(=C1)C)C | C13H13BrN2
